US03954852
A. 5-fluoro-2-methyl-4'-methylsulfinylbenzophenone
p-Methylsulfinylbenzoyl chloride (0.2 mole) and p-fluorotoluene (0.2 mole) are refluxed together in trifluoromethanesulfonic acid for 6 hours according to the procedure of Chodroff and Klein, J.A.C.S. 70, 7209 (1948).

reactant | p-Methylsulfinylbenzoyl chloride | 0.2 mole | CS(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2S
reactant | p-fluorotoluene | 0.2 mole | FC1=CC=C(C=C1)C | C7H7F
solvent | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 5-fluoro-2-methyl-4'-methylsulfinylbenzophenone | FC=1C=CC(=C(C(=O)C2=CC=C(C=C2)S(=O)C)C1)C | C15H13FO2S
